US07148246B2
5-{1-Hydroxy-2-[cis-3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyl]-ethyl}thiazolidine-2,4-dione
214 mg of thiazolidinedione are dissolved in 20 ml of tetrahydrofuran and, at −78° C., 1.4 ml of a 2.7 M solution of n-butyllithium in n-hexane are added. The mixture is stirred at −78° C. for 30 minutes, and 500 mg of {cis-3-[2-(3-methylphenyl)-5-methyloxazol-4-ylmethoxy]cyclohexyl}acetaldehyde, dissolved in 10 ml of tetrahydrofuran, are then added. After 30 minutes of stirring at −78° C., the mixture is allowed to warm to room temperature. 20 ml of 1N hydrochloric acid are added and the mixture is extracted three times with in each case 50 ml of ethyl acetate. The combined organic phases are dried over magnesium sulfate and the solvent is then removed under reduced pressure. The residue is purified by RP-HPLC. This gives 420 mg of 5-{1-hydroxy-2-[cis-3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyl]ethyl}thiazolidine-2,4-dione as a white solid. C23H28N2O5S (444.45), MS (ESI): 445 (M+H+)

reactant | thiazolidinedione | 214 mg | C1C(=O)NC(=O)S1 | C3H3NO2S
reactant | n-butyllithium | C(CCC)[Li]
reactant | {cis-3-[2-(3-methylphenyl)-5-methyloxazol-4-ylmethoxy]cyclohexyl}acetaldehyde | 500 mg | CC=1C=C(C=CC1)C=1OC(=C(N1)CO[C@H]1C[C@H](CCC1)CC=O)C | C20H25NO3
reactant | hydrochloric acid | 1N, 20 ml | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 5-{1-Hydroxy-2-[cis-3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyl]-ethyl}thiazolidine-2,4-dione | OC(C[C@@H]1C[C@@H](CCC1)OCC=1N=C(OC1C)C=1C=C(C=CC1)C)C1C(NC(S1)=O)=O | C23H28N2O5S
